US08349880B2
Methyl 4-(4-(difluoromethyl)-1H-imidazol-1-yl)-3-methoxyphenylcarbamimidothioate hydroiodide (500 mg, 1.601 mmol, from preparation N) and 6-chloro-2-(4-fluorophenyl)hexanoic acid (392 mg, 1.601 mmol, from preparation AH) were coupled and then reacted with hydrazine (0.201 mL, 6.40 mmol) using a procedure analogous to Step A of Example 13 to afford 5-(5-chloro-1-(4-fluorophenyl)pentyl)-N-(4-(4-(difluoromethyl)-1H-imidazol-1-yl)-3-methoxyphenyl)-1H-1,2,4-triazol-3-amine (821 mg, 100% yield). LC-MS (M+H)+ 505.3. The crude products were used in the subsequent step without purification.

reactant | Methyl 4-(4-(difluoromethyl)-1H-imidazol-1-yl)-3-methoxyphenylcarbamimidothioate hydroiodide | 1.601 mmol, 500 mg | I.FC(C=1N=CN(C1)C1=C(C=C(C=C1)NC(=N)SC)OC)F
reactant | 6-chloro-2-(4-fluorophenyl)hexanoic acid | 1.601 mmol, 392 mg | ClCCCCC(C(=O)O)C1=CC=C(C=C1)F | C12H14ClFO2
reactant | hydrazine | 6.40 mmol, 0.201 mL | NN | H4N2
product | 5-(5-chloro-1-(4-fluorophenyl)pentyl)-N-(4-(4-(difluoromethyl)-1H-imidazol-1-yl)-3-methoxyphenyl)-1H-1,2,4-triazol-3-amine | 821 mg, 100% yield | ClCCCCC(C1=CC=C(C=C1)F)C1=NC(=NN1)NC1=CC(=C(C=C1)N1C=NC(=C1)C(F)F)OC | C24H24ClF3N6O
